US08383821B2
4-((3-(2-Methyl-2H-tetrazol-5-yl)-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine.
tert-Butyl 4-((3-(2-methyl-2H-tetrazol-5-yl)-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate (48.0 mg, 0.09 mmol) was dissolved in a minimum amount of ethyl acetate, followed by addition of 4 N hydrochloric acid (1 mL). The mixture was stirred under nitrogen for 1 h. After removing the solvents, the crude mixture was precipitated in diethyl ether and filtered to afford 26.0 mg (67%) as a white powder. 1H-NMR (CDCl3, 300 MHz) δ 8.23 (s, 1H), 8.10 (s, 1H), 7.40 (s, 1H), 7.28-7.36 (m, 4H), 7.20 (m, 1H), 4.41 (s, 2H), 4.38 (s, 3H), 3.44 (s, 2H), 2.86-2.93 (m, 2H), 2.69-2.77 (m, 2H), 2.16-2.20 (m, 2H), 1.83-1.96 (m, 2H). 13C-NMR (CDCl3, 76 MHz) δ 164.0, 143.4, 141.0, 131.4 (q, J=32.8 Hz), 128.3, 128.0, 127.0, 126.1, 135.5, 124.0 (q, J=213.8 Hz), 122.6, 121.9, 79.9, 72.0, 42.3, 41.7, 39.5, 32.9. Mass spec.: 432.20 (MH)+. Accurate mass spec.: m/z 432.1994 [MH]+, Δ=4.0 ppm.

reactant | tert-Butyl 4-((3-(2-methyl-2H-tetrazol-5-yl)-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.09 mmol, 48.0 mg | CN1N=C(N=N1)C=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)C(F)(F)F | C27H32F3N5O3
reactant | hydrochloric acid | 4 N, 1 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-((3-(2-Methyl-2H-tetrazol-5-yl)-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine | CN1N=C(N=N1)C=1C=C(COCC2(CCNCC2)C2=CC=CC=C2)C=C(C1)C(F)(F)F | C22H24F3N5O
